US09023847B2
To a solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (100 mg, 0.39 mmol), diisopropylethylamine (0.1 mL, 0.54 mmol), 1-BOC-3-aminopyrrolidine (143 mg, 0.77 mmol) in dimethylformamide (2 mL) was added HATU (176 mg, 0.463 mmol). The solution stirred at room temperature for 18 h then diluted with ethyl acetate and washed with aqueous 1% lithium chloride. The organic layer was dried, concentrated in vacuo and purified by ISCO Companion to provide 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester (161 mg, 95%). LCMS (ESI) 428 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.55 (1H, br. s.) 10.24 (1H, s) 8.20 (1H, d, J=6.83 Hz) 8.02 (1H, d, J=5.47 Hz) 7.81 (1H, d, J=5.47 Hz) 7.47 (1H, d, J=5.47 Hz) 7.31 (1H, dd, J=3.32, 2.54 Hz) 6.80 (1H, d, J=5.47 Hz) 6.44 (1H, dd, J=3.42, 1.85 Hz) 4.35-4.58 (1H, m) 3.47-3.65 (1H, m) 3.33-3.44 (1H, m) 3.26 (1H, t, J=9.08 Hz) 3.09-3.21 (1H, m) 1.99-2.14 (1H, m) 1.81-1.95 (1H, m) 1.39 (9H, s).

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid | 0.39 mmol, 100 mg | N1C=CC=2C1=NC=CC2NC2=C(SC=C2)C(=O)O | C12H9N3O2S
reactant | diisopropylethylamine | 0.54 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-BOC-3-aminopyrrolidine | 0.77 mmol, 143 mg | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
reactant | HATU | 0.463 mmol, 176 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | 161 mg, 95% | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
